US07067111B1
Synthesis of EC-Deoxyglucose (EC-DG)
Sodium hydroxide (1N, 1 ml) was added to a stirred solution of EC (110 mg, 0.41 mmol) in water (5 ml). To this colorless solution, sulfo-NHS (241.6 mg, 1.12 mmol) and EDC (218.8 mg, 1.15 mmol) were added. D-Glucosamine hydrochloride salt (356.8 mg, 1.65 mmol) was then added. The mixture was stirred at room temperature for 24 hours. The mixture was dialyzed for 48 hours using Spectra/POR molecular porous membrane with cut-off at 500 (Spectrum Medical Industries Inc., Houston, Tex.). After dialysis, the product was frozen dried using lyophilizer (Labconco, Kansas City, Mo.). The product in the salt form weighed 568.8 mg. The synthetic scheme is shown in FIG. 59. The structure was confirmed by mass spectrometry (FIG. 60) and proton NMR (FIGS. 61 and 62). Radiochemical purity of 99mTc-EC-DG was 100% as determined by radio-TLC (FIG. 63) and HPLC (FIGS. 64 and 65) analysis.

reactant | Sodium hydroxide | 1N, 1 ml | [OH-].[Na+]
reactant | sulfo-NHS | 1.12 mmol, 241.6 mg | C1C(C(=O)N(C1=O)O)S(=O)(=O)[O-].[Na+]
reactant | EDC | 1.15 mmol, 218.8 mg
reactant | D-Glucosamine hydrochloride salt | 1.65 mmol, 356.8 mg | Cl.OC1[C@H](N)[C@@H](O)[C@H](O)[C@H](O1)CO
solvent | water | 5 ml | O | H2O
product | Deoxyglucose | O=CC[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O5
